US05990156
a) (4S,5R,6R)-5-Acetylamino-6-(dipropylcarbamoyl)-4-(2,2,2-trifluoroacetylamino)-5,6-dihydro-4H-pyran-2-carboxylic acid, benzhydryl ester
To a stirred cooled solution (ice/water) of (4S,5R,6R)-5-acetylamino-4-amino-6-(dipropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid, benzhydryl ester (1.7 g) in anhydrous dichloromethane (15 ml) containing pyridine (0.84 ml) and 4-dimethylaminopyridine (0.042 g) was added trifluoroacetic anhydride (0.59 ml) dropwise. The reaction was stirred for 1 hour in the cooling bath and for a further 48 hours at 23° C. The solvent was removed in vacuo leaving a brown oil which was taken up in ethyl acetate (125 ml), washed with aqueous saturated sodium bicarbonate (2×100 ml), water (100 ml) and brine (100 ml). The organic phase was dried over anhydrous magnesium sulphate and solvent was removed in vacuo. The residue was chromatographed over silica (Merck 9385, 50 g) using medium pressure nitrogen (ca 5 psi) and chloroform and methanol (9:1 v/v) as eluant. The required fractions were combined and solvent was removed to give the title compound as a white solid (1.88 g). 1H NMR (250 MHz, CDCl3) 8.79 (1H, d, J=8 Hz), 7.39-7.30 (10H, m), 7.00 (1H, s), 6.15 (1H, d, J=5 Hz), 5.75 (1H, d, J=8 Hz), 5.15 (1H, s), 4.55 (1H, dd, J=8 Hz, 6 Hz), 4.48 (1H, d, J=8 Hz), 3.49 (3H, s), 3.45-3.30 (2H, m), 3.30-3.10 (2H, m), 2.0 (3H, s), 1.68-1.52 (2H, m), 1.52-1.40 (2H, m), 1.92 (3H, t, J=8 Hz). Mass spec (Low Resolution): MH+ =590. Mass spec (High Resolution): MH+ =590.247788, fits for molecular formula C30H35N3O6F3, error=0.0 ppm.

reactant | (4S,5R,6R)-5-acetylamino-4-amino-6-(dipropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid, benzhydryl ester | 1.7 g | C(C)(=O)N[C@@H]1[C@H](C=C(O[C@H]1C(N(CCC)CCC)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)N | C28H35N3O5
reactant | pyridine | 0.84 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.59 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.042 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 125 ml | C(C)(=O)OCC | C4H8O2
product | (4S,5R,6R)-5-Acetylamino-6-(dipropylcarbamoyl)-4-(2,2,2-trifluoroacetylamino)-5,6-dihydro-4H-pyran-2-carboxylic acid, benzhydryl ester | 1.88 g | C(C)(=O)N[C@@H]1[C@H](C=C(O[C@H]1C(N(CCC)CCC)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)NC(C(F)(F)F)=O | C30H34F3N3O6
